US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.116 g, 0.417 mmol) was reacted with N-(2-azidoethyl)-4,5-dibromo-1-methyl-1H-pyrrole-2-carboxamide (0.145 g, 0.417 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(4,5-dibromo-1-methyl-1H-pyrrole-2-carboxamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.76 (s, 1H), δ 7.32 (s, 1H), δ 6.81 (s, 1H), δ 6.49 (s, 1H), δ 6.17 (s, 2H), δ 4.52 (s, 2H), δ 3.94 (s, 3H), δ 3.84 (s, 2H), δ 2.65 (t, 2H), δ 2.30 (m, 2H), δ 1.58 (m, 13H), δ 1.35 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 161.2, 149.6, 148.2, 138.8, 127.4, 122.2, 114.9, 111.9, 106.5, 98.2, 84.5, 49.5, 39.7, 35.9, 29.3, 28.9, 28.2, 28.0, 27.7, 25.6 ppm; HRMS (ESI) calcd for C23H32N8O3 (M+) 626.0964. found 626.0960, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-4,5-dibromo-1-methyl-1H-pyrrole-2-carboxamide hydrochloride (0.151 g, 64% yield). 1H NMR (400 MHz, CD3OD) δ 8.24 (s, 1H), δ 6.86 (s, 1H), δ 6.56 (s, 1H), 4.71 (s, 2H), 6 3.81 (s, 5H), 2.78 (s, 2H), δ 2.44 (t, 2H), δ 1.69 (s, 2H), δ 1.59 (s, 2H), δ 1.37 (s, 2H) ppm; 13C NMR (100 MHz, CD3OD) δ 161.4, 150.2, 159.8, 159.4, 147.3, 127.6, 127.3, 114.9, 111.6, 108.4, 97.9, 51.3, 39.0, 35.2, 28.3, 28.0, 27.6, 24.2, 23.8 ppm; HRMS (ESI) calcd for C18H24Br2N8O (M+) 526.0439. found 526.0425.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.417 mmol, 0.116 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-4,5-dibromo-1-methyl-1H-pyrrole-2-carboxamide | 0.417 mmol, 0.145 g | N(=[N+]=[N-])CCNC(=O)C=1N(C(=C(C1)Br)Br)C | C8H9Br2N5O
product | tert-butyl 2-amino-4-(5-(1-(2-(4,5-dibromo-1-methyl-1H-pyrrole-2-carboxamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(=O)C=1N(C(=C(C1)Br)Br)C)C(=O)OC(C)(C)C | C23H32Br2N8O3
